US04532240
N-[4-[4-(2,4-Diamino-6-ethyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid
A mixture of 2.0 g (3.85 mmole) of N-[4-[4-(2,4-diamino-6-ethyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid diethyl ester and 0.6 g (7.70 mmole) of a 50% aqueous sodium hydroxide solution in 100 ml of methanol was stirred at room temperature for 16 hours. Methanol was removed in vacuo below 23° C. The residue was dissolved in 50 ml of ice water and filtered. The filtrate was acidified with citric acid to pH 5. The solid precipitate was collected, washed with water, and triturated with boiling ethanol. After drying in vacuo at 67° for 16 hours, 1.3 g of the product was obtained as a white powder; mp 275° C. (with decomposition).

reactant | N-[4-[4-(2,4-diamino-6-ethyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid diethyl ester | 3.85 mmole, 2.0 g | C(C)OC([C@@H](NC(C1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC(=NC1CC)N)N)=O)CCC(=O)OCC)=O | C26H37N7O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | N-[4-[4-(2,4-Diamino-6-ethyl-5-pyrimidinyl)-1-piperazinyl]benzoyl]-L-glutamic acid | 1.3 g | NC1=NC(=C(C(=N1)N)N1CCN(CC1)C1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)CC | C22H29N7O5
